US06548671B2
2-(3-Fluoro-3-methy-butyl)-4-hydroxy-6-phenyl-5-[(quinoxaline-2-carbonyl)-amino]-hexanoic acid
To a solution of quinoxaline-2-carboxylic acid {1-[4-(3-fluoro-3-methyl-butyl)-5-oxo-tetrahydro-furan-2-yl]-2-phenyl-ethyl}-amide (4 g, 8.90 mmol) in tetrahydrofuran was added lithium hydroxide (1 M in water, 28 mL) and stirred for 2 hours. The reaction was then concentrated, and concentrated from benzene (2×) to give the title compound (4.2 g, 100%).

reactant | quinoxaline-2-carboxylic acid {1-[4-(3-fluoro-3-methyl-butyl)-5-oxo-tetrahydro-furan-2-yl]-2-phenyl-ethyl}-amide | 8.90 mmol, 4 g | FC(CCC1CC(OC1=O)C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)(C)C | C26H28FN3O3
reactant | lithium hydroxide | 1 M, 28 mL | [OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3-Fluoro-3-methy-butyl)-4-hydroxy-6-phenyl-5-[(quinoxaline-2-carbonyl)-amino]-hexanoic acid | 4.2 g, 100% | FC(CCC(C(=O)O)CC(C(CC1=CC=CC=C1)NC(=O)C1=NC2=CC=CC=C2N=C1)O)(C)C | C26H30FN3O4
